US07189711B2
(±)-3-Acetyl-1-(4-amino-3-methylphenyl)-4,5-dihydro-4-methyl-8-methoxy-3H-2,3-benzodiazepine
4.46 g (10 mmoles) of (±)-3-acetyl-7-bromo4,5-dihydro-1-(3-methyl-4-nitrophenyl)-4-methyl-8-methoxy-3H-2,3-benzo-diazepine are dissolved in 190 cm3 of methyl cellosolve, then 2.1 g (15 mmoles) of potassium carbonate and 1.8 g of 10% palladium/charcoal catalyst and, under vigorous stirring, 1.95 cm3 (40 mmoles) of 98% hydrazine hydrate are added. The reaction mixture is stirred at 100° C. for 1 hour, the catalyst is filtered, the filtrate is evaporated, and the residue is rubbed with 50 cm3 of water to obtain solid matter. The crude product is purified by chromatography over a column containing silica gel and using a mixture of ethyl acetate and hexane, then the product is recrystallized from acetonitrile. Thus, 1.6 g (47%) of the title compound are obtained in the form of cream coloured solids melting at 169–171° C.

reactant | (±)-3-acetyl-7-bromo4,5-dihydro-1-(3-methyl-4-nitrophenyl)-4-methyl-8-methoxy-3H-2,3-benzo-diazepine | 10 mmoles, 4.46 g | C(C)(=O)N1N=C(C2=C(CC1C)C=C(C(=C2)OC)Br)C2=CC(=C(C=C2)[N+](=O)[O-])C | C20H20BrN3O4
reactant | potassium carbonate | 15 mmoles, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine hydrate | 40 mmoles, 1.95 cm3 | O.NN
solvent | methyl cellosolve | 190 cm3 | COCCO | C3H8O2
catalyst | palladium/charcoal | 1.8 g | [Pd] | Pd
product | (±)-3-Acetyl-1-(4-amino-3-methylphenyl)-4,5-dihydro-4-methyl-8-methoxy-3H-2,3-benzodiazepine | 1.6 g, 47% | C(C)(=O)N1N=C(C2=C(CC1C)C=CC(=C2)OC)C2=CC(=C(C=C2)N)C | C20H23N3O2
